* C:\Users\jorge\CE-Amplifier\Early-Voltage\Draft1.asc
* Generated by LTspice 24.1.4 for Windows.
Q1 N001 0 N002 0 2N3904
V2 N001 0 {VCB}
V1 0 N002 0V
.model NPN NPN
.model PNP PNP
.lib C:\Users\jorge\AppData\Local\LTspice\lib\cmp\standard.bjt
.step param VCB 0 4 2
.dc V1 0.2 1.2 1m
.backanno
.end
